US08236826B2
Production of ethyl 3-{3-methoxy-4-[methyl(5-nitropyridin-2-yl)amino]phenyl}propionate
To a solution of ethyl 3-[3-methoxy-4-(5-nitropyridin-2-ylamino)phenyl]propionate (3.70 g, 11 mmol) in DMF (60 mL) were added under ice-cooling sodium hydride (60%, 490 mg, 12 mmol) and methyl iodide (0.77 mL, 12 mmol), and the resulting reaction solution was stirred for 2 hours gradually warming up to room temperature. The reaction solution was concentrated under reduced pressure. To the residue was added ethyl acetate, washed with water and brine, and then dried with anhydrous magnesium sulfate. The solvent was evaporated, to thereby yield 4.27 g of the title compound.

reactant | ethyl 3-[3-methoxy-4-(5-nitropyridin-2-ylamino)phenyl]propionate | 11 mmol, 3.70 g | COC=1C=C(C=CC1NC1=NC=C(C=C1)[N+](=O)[O-])CCC(=O)OCC | C17H19N3O5
reactant | sodium hydride | 12 mmol, 490 mg | [H-].[Na+]
reactant | methyl iodide | 12 mmol, 0.77 mL | CI | CH3I
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | ethyl 3-{3-methoxy-4-[methyl(5-nitropyridin-2-yl)amino]phenyl}propionate | COC=1C=C(C=CC1N(C1=NC=C(C=C1)[N+](=O)[O-])C)CCC(=O)OCC | C18H21N3O5
